US04914202
2-[4-Amino-3,5-dichlorophenyl]-4-[1,1-dimethylethyl]morpholine hydrochloride
The title compound, m.p. 283°-4° C. (d) (methanol-ethyl acetate), was prepared from 2-[4-amino-3,5-dichlorophenyl]-4-[1,1-dimethylethyl]-5-oxo morpholine and borane-methyl sulphide by an analogous procedure to that described in Example 1.

reactant | 2-[4-amino-3,5-dichlorophenyl]-4-[1,1-dimethylethyl]-5-oxo morpholine | NC1=C(C=C(C=C1Cl)C1CN(C(CO1)=O)C(C)(C)C)Cl | C14H18Cl2N2O2
reactant | borane methyl sulphide | B.CSC
product | 2-[4-Amino-3,5-dichlorophenyl]-4-[1,1-dimethylethyl]morpholine hydrochloride | Cl.NC1=C(C=C(C=C1Cl)C1CN(CCO1)C(C)(C)C)Cl | InChI=1S/C14H20Cl2N2O.ClH/c1-14(2,3)18-4-5-19-12(8-18)9-6-10(15)13(17)11(16)7-9;/h6-7,12H,4-5,8,17H2,1-3H3;1H
